US06329372B1
O-(2,6-dichlorobenzyl)-N-(4-acetyl-1,2,5-trimethyl-3-pyrroyl)-L-tyrosine methyl ester
NMM (155 mg, 169 μl, 1.54 mmol), HOBT (227 mg, 1.68 mmol), 4-acetyl-1,2,5-trimethylpyrrole-3-carboxylic acid (300 mg, 1.54 mmol) and EDC (295 mg, 1.54 mmol) were added sequentially to a stirred solution of O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloric (546 mg, 1.40 mmol) in dry DMF (15 ml). The reaction was stirred at room temperature under N2 for 18 h. The solvent was removed in vacuo and the residue partitioned between EtOAc (50 ml), and 10%aqueous Na2CO3 (40 ml). The phases were separated and the queous phase extracted with EtOac (2×25 ml). The combined organic extracts were washed consecutively with 5% aqueous hydrochloric acid (20 ml), 10% aqueous Na2SO3 (20 ml) and brine (10 ml), dried (Na2SO4) and evaporated in vacuo. The obtained orange foam (0.6 g) was chromatographed (silica; 50% EtOAc/Hexane→100% EtOAc) affording the title compound as a white foam (380 mg, 51%); 'Hnmr (d6DMSO) 8.53 (1H, d, J 8Hz, NH), 7.57-7.43 (3H, m's, aryl-H), 7.22 (2H, d, J 8.5Hz), aryl-H), 6.95 (2H, d, J 8.5 Hz, aryl-H), 5.18 (2H, br s, CH2-O), 4.67 (1H, m, α-tyr-H), 3.66 (3H, s, Me-O), 3.34 (3H, s, Me-N), 3.12 (1H, dd, J 4.1, 13.8Hz, CHABBAr), 2.90 (1H, dd, J 11.3 13.8Hz, CH2HBAr), 2.32 (3H, s, MeCO), 2.0 (3H, s, pyrrole-Me) and 1.94 (3H, s, pyrrole-Me). m/z (ES+60V) 531 (MH+, 100 ), 533 (MH+, 75) 553( MNz+, 15%).

reactant | NMM | 1.54 mmol, 169 μl, 155 mg | CN1CCOCC1 | C5H11NO
reactant | HOBT | 1.68 mmol, 227 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-acetyl-1,2,5-trimethylpyrrole-3-carboxylic acid | 1.54 mmol, 300 mg | C(C)(=O)C=1C(=C(N(C1C)C)C)C(=O)O | C10H13NO3
reactant | EDC | 1.54 mmol, 295 mg
reactant | O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester | 1.40 mmol, 546 mg | COC([C@@H](N)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O | C17H17Cl2NO3
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | O-(2,6-dichlorobenzyl)-N-(4-acetyl-1,2,5-trimethyl-3-pyrroyl)-L-tyrosine methyl ester | 380 mg, 51% | COC([C@@H](NC(=O)C1=C(N(C(=C1C(C)=O)C)C)C)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O | C27H28Cl2N2O5
